US07018685B2
The reaction of 1,8-difluorofluorene with propionaldehyde is effected in a similar manner to the procedure described in Example 2. 2-Propyl-1,8-difluorofluorene is obtained.

reactant | 1,8-difluorofluorene | FC1=CC=CC=2C3=CC=CC(=C3CC12)F | C13H8F2
reactant | propionaldehyde | C(CC)=O | C3H6O
product | 2-Propyl-1,8-difluorofluorene | C(CC)C1=C(C=2CC3=C(C=CC=C3C2C=C1)F)F | C16H14F2
